US07148226B2
1-(2-Hydroxy-4-trifluoromethyl-phenyl)-ethanone
4-Ethoxy-1,1,1-trifluoro-3-buten-2-one (5 g, 29.7 mmol) followed by 2,4-pentadione (3.05 ml, 29.7 mmol) were added to a cooled 0° C. suspension of NaH (2.38 g, 59.4 mmol) in THF (120 mL). The reaction mixture was refluxed for 4 hrs and then partitioned between 1N HCl and EtOAc. The organic layers were washed with brine, dried over Na2SO4 and concentrated to a red oil. Purification by flash column chromatography (0% to 10% EtOAc in hexanes) gave the title compound as a yellow oil (1.73 g, 29%). 1H NMR (400 MHz, CDCl3): δ 2.69 (s, 3H), 7.15 (d, J=9.9 Hz, 1 H), 7.25 (s, 1 H), 7.86 (d, J=8.3 Hz, 1 H), 12.29 (s, 1 H).

reactant | 4-Ethoxy-1,1,1-trifluoro-3-buten-2-one | 29.7 mmol, 5 g | C(C)OC=CC(C(F)(F)F)=O | C6H7F3O2
reactant | 2,4-pentadione | 29.7 mmol, 3.05 ml | CC(=O)CC(=O)C | C5H8O2
reactant | NaH | 59.4 mmol, 2.38 g | [H-].[Na+]
solvent | THF | 120 mL | C1CCOC1 | C4H8O
product | 1-(2-Hydroxy-4-trifluoromethyl-phenyl)-ethanone | 1.73 g, 29% | OC1=C(C=CC(=C1)C(F)(F)F)C(C)=O | C9H7F3O2
